US07858640B2
[8-chloro-3-(4-chlorobenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yl]acetic Acid
A mixture of (3-amino-4-chlorophenyl)acetic acid methyl ester (1.0 g), 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester (1.3 g), polyphosphoric acid (5 mL) and dioxane (10 mL) was heated at 130° C. for 1.5 hours. The mixture was diluted with water and the pH of this solution adjusted to 3 by the addition of sodium acetate. The resulting precipitate was collected by filtration and purified by column chromatography on silica gel, eluting with a mixture of dichloromethane, ethyl acetate and methanol (1:0:0 to 10:1:0 to 1:1:0 to 20:0:1 and 0:0:1 by volume) to afford title compound, 0.60 g.

reactant | (3-amino-4-chlorophenyl)acetic acid methyl ester | 1.0 g | COC(CC1=CC(=C(C=C1)Cl)N)=O | C9H10ClNO2
reactant | 2-(4-chlorobenzyl)-3-oxobutyric acid ethyl ester | 1.3 g | C(C)OC(C(C(C)=O)CC1=CC=C(C=C1)Cl)=O | C13H15ClO3
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | [8-chloro-3-(4-chlorobenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yl]acetic Acid | ClC=1C=CC(=C2C(C(=C(NC12)C)CC1=CC=C(C=C1)Cl)=O)CC(=O)O | C19H15Cl2NO3
